US08349824B2
The product was prepared in the same manner as described in example 66 using N-(2-bromo-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1-methyl-4-(morpholine-4-carbonyl)-1H-pyrazole-5-carboxamide (200 mg, 461 μmol) and 2-methoxyphenylboronic acid (140 mg, 921 μmol) as starting materials. The crude material was applied on silicagel and purified by flash chromatography over a 20 g silicagel column using ethyl acetate/methanol 10% as eluent affording 2-methyl-4-(morpholine-4-carbonyl)-2H-pyrazole-3-carboxylic acid [2-(2-methoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-7-yl]-amide (109 mg, 51.3%) as a light brown foam. MS: m/z=462.5 (M+H+).

reactant | N-(2-bromo-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1-methyl-4-(morpholine-4-carbonyl)-1H-pyrazole-5-carboxamide | 461 μmol, 200 mg | BrC1=NN2C(C=C(C=C2)NC(=O)C2=C(C=NN2C)C(=O)N2CCOCC2)=N1 | C16H16BrN7O3
reactant | 2-methoxyphenylboronic acid | 921 μmol, 140 mg | COC1=C(C=CC=C1)B(O)O | C7H9BO3
product | 2-methyl-4-(morpholine-4-carbonyl)-2H-pyrazole-3-carboxylic acid [2-(2-methoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-7-yl]-amide | 109 mg, 51.3% | COC1=C(C=CC=C1)C1=NN2C(C=C(C=C2)NC(=O)C=2N(N=CC2C(=O)N2CCOCC2)C)=N1 | C23H23N7O4
